US04502994
Into a 12-L flask equipped with stirrer, thermometer, additional funnel was charged 528 g L-ascorbic acid (3.0 moles) and 7500 mL distilled water. The batch was stirred at room temperature to form a clear solution and added 600 g calcium carbonate. The slurry was stirred and cooled to 15° C. Then 1200 mL hydrogen peroxide (30% w/w) was added at 12°-15° C. over 60 min. The mixture was stirred at room temperature for 16 h. Then 120 g charcoal was added. The mixture was heated to 75° C. while stirring was continued until no more oxygen was evolved (as indicated by bubbling in a water trap). The batch was filtered at 70°-75° C., and the filter cake washed with 2×100 mL distilled water. The combined filtrate was concentrated to about 2-L at less than 50° C. under vacuum. Then 1500 mL methanol was added until the solution became cloudy. The mixture was then stirred at room temperature for 16 h, filtered, and washed with 2×100 mL methanol. The solids were dried at 60° C. under vacuum to constant weight to obtain Calcium-L-threonate having a dry weight of 436.5 g and a melting point 300+° C.

reactant | L-ascorbic acid | 3.0 moles, 528 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | calcium carbonate | 600 g | C([O-])([O-])=O.[Ca+2]
reactant | charcoal | 120 g | C | CH4
reactant | oxygen | O=O | O2
solvent | hydrogen peroxide | 1200 mL | OO | H2O2
product | Calcium L-threonate | [Ca].O=C([C@H](O)[C@@H](O)CO)[O-] | InChI=1S/C4H8O5.Ca/c5-1-2(6)3(7)4(8)9;/h2-3,5-7H,1H2,(H,8,9);/p-1/t2-,3+;/m0./s1
